*Opto-Isolators  45%
.SUBCKT HCPL-4562 2 3 5 6 8 7
* ANODE CATHODE EMITTER col phkat BAZA
*
* Current Transfer Ratio (CTR)=(H*G*BF)=45%
VM 2 60 0
D1 60 3 LED
d2 2 3 ledc
H1 70 0 VM 3.2m
R1 70 80 1K noiseless
C1 80 0 7PF
G1 8 7 80 0 1
d3 7 8 phd
Q1 6 7 5 QOPTO
.MODEL LED D(N=2.63 RS=1.25 IS=757f)
.MODEL LEDc D(N=5 RS=1.25 CJO=20PF IS=10p)
.model phd d cjo=5p is=1p
.MODEL QOPTO NPN(IS=7p NF=1.23 CJC=0.5PF
+ CJE=1PF TF=50p TR=10NS BF=136 BR=10
+ IKF=100MA VAF=100)
.ENDS HCPL-4562